US04380515
6-(N,N-Di-cyclohexyl-amino)-dibenz[c,e][1,2]oxaphosphorine
35.1 g (0.15 mol) of 6-chloro-dibenz[c,e][1,2]oxaphosphorine, 27.1 g (0.15 mol) of dicyclohexylamine and 50 ml of triethylamine are kept at reflux temperature for 10 hours. Toluene is added to the solution; the triethylamine hydrochloride is then removed by filtration, and the filtrate is concentrated in vacuo. The crystalline product has a melting point of 162° C. (Compound I).

reactant | 6-chloro-dibenz[c,e][1,2]oxaphosphorine | 0.15 mol, 35.1 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | dicyclohexylamine | 0.15 mol, 27.1 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(N,N-Di-cyclohexyl-amino)-dibenz[c,e][1,2]oxaphosphorine | C1(CCCCC1)N(C1CCCCC1)P1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C24H30NOP
